US05889010
C. 1-(3-methanesulfonyloxy-propyl)-2-trifluoromethyl-5-fluoro-1H -benzimidazole
To a cold (-25° C.), stirred mixture of 1-(3-hydroxy-propyl)-2-trifluoromethyl-5-fluoro-1H-benzimidazole (2.09 gm), triethylamine (2.22 ml) and methylene chloride (12 ml) is dropwise added a solution of methanesulfonic acid anhydride (2.78 gm) in 14 ml CH2Cl2. After complete addition, the mixture is warmed to ambient temperature, extracted with water (2×20 ml), dried over Na2SO4 and concentrated to a thick brown oil {crude methanesulfonyl ester of above 1-(3-hydroxy-propyl)-2-trifluoromethyl-5-fluoro -1H-benzimidazole}.

reactant | 1-(3-hydroxy-propyl)-2-trifluoromethyl-5-fluoro-1H-benzimidazole | 2.09 gm | OCCCN1C(=NC2=C1C=CC(=C2)F)C(F)(F)F | C11H10F4N2O
reactant | triethylamine | 2.22 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | 2.78 gm | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | CH2Cl2 | 14 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-methanesulfonyloxy-propyl)-2-trifluoromethyl-5-fluoro-1H -benzimidazole | CS(=O)(=O)OCCCN1C(=NC2=C1C=CC(=C2)F)C(F)(F)F | C12H12F4N2O3S
